US08293918B2
Bouillon et al in Tetrahedron, 2002, 58, 17, 3323-3328 reported a three-step process for the preparation of 2,3-dibromopyridine from 2-amino-3-nitropyridine. The process involves diazotization of 2-amino-3-nitropyridine followed by addition of CuBr in 47% HBr to obtain 2-bromo-3-nitropyridine. The 2-bromo-3-nitropyridine so obtained is reduced with Fe and acetic acid to 3-amino-2-bromopyridine and subsequent diazotization to give 2,3-dibromopyridine.

reactant | 2,3-dibromopyridine | BrC1=NC=CC=C1Br | C5H3Br2N
reactant | 2-amino-3-nitropyridine | NC1=NC=CC=C1[N+](=O)[O-] | C5H5N3O2
solvent | HBr | Br | BrH
product | 2-bromo-3-nitropyridine | BrC1=NC=CC=C1[N+](=O)[O-] | C5H3BrN2O2
